US04658061
A solution of 52.3 g. of 9-carbamoylfluorene and 10 ml. of benzyltriethylammonium hydroxide in 700 ml. of tetrahydrofuran was heated at 45° C. for thirty minutes and then cooled to 25° C. The reaction mixture was diluted by addition in one portion of 25.2 g. of ethyl vinyl ketone. The reaction mixture was stirred at 25° C. for sixteen hours and at reflux for three hours. The mixture was cooled, added to 200 g. of ice and extracted with 50% ethyl acetate-diethyl ether. The organic extract was washed with water, with 10% sodium hydroxide, dried and the solvent was removed by evaporation under reduced pressure. The solid residue was crystallized from ethyl acetate and petroleum ether to afford 42.6 g of 9-carbamoyl-9-(3-oxopentyl)fluorene. m.p. 133°-135° C.

reactant | 9-carbamoylfluorene | C(N)(=O)C1C2=CC=CC=C2C=2C=CC=CC12 | C14H11NO
reactant | benzyltriethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
reactant | ethyl vinyl ketone | C(=C)C(=O)CC | C5H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 9-carbamoyl-9-(3-oxopentyl)fluorene | 42.6 g | C(N)(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCC(CC)=O | C19H19NO2
